US06350749B1
In water (200 ml) was dissolved sodium hydroxide (3 g), and to the solution was added acetone (80 ml) and then was added dropwise a solution of 5-fluoro-2-methoxybenzaldehyde (10 g) in acetone (25 ml). The reaction solution was stirred at room temperature for 4 hours, and acetone was evaporated under reduced pressure. The residue was extracted with ethyl acetate, and the organic layer was washed with water and saturated brine and concentrated under reduced pressure to give 4-(5-fluoro-2-methoxyphenyl)-3-buten-2-one (13 g).

reactant | sodium hydroxide | 3 g | [OH-].[Na+]
reactant | 5-fluoro-2-methoxybenzaldehyde | 10 g | FC=1C=CC(=C(C=O)C1)OC | C8H7FO2
reactant | acetone | 25 ml | CC(=O)C | C3H6O
reactant | acetone | 80 ml | CC(=O)C | C3H6O
solvent | water | 200 ml | O | H2O
product | 4-(5-fluoro-2-methoxyphenyl)-3-buten-2-one | 13 g | FC=1C=CC(=C(C1)C=CC(C)=O)OC | C11H11FO2
